US05071853
2-[(2-bromophenyl)methyl]cyclopentanone
In a manner similar to that described in Example 82, 1-pyrrolidino-1-cyclopentene (15.1 g, 0.11 mole) in dioxane (100 ml) was treated with 2-bromobenzyl bromide (30.0 g, 0.12 mol) to give the title compound as a clear oil (12.5 g, 45%).

reactant | 1-pyrrolidino-1-cyclopentene | 0.11 mole, 15.1 g | N1(CCCC1)C1=CCCC1 | C9H15N
reactant | 2-bromobenzyl bromide | 0.12 mol, 30.0 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-[(2-bromophenyl)methyl]cyclopentanone | 12.5 g, 45% | BrC1=C(C=CC=C1)CC1C(CCC1)=O | C12H13BrO
